US09119868B2
Step 3: ((2-Chloro-4-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)phenoxy)methyl)boronic acid
A mixture of 6-(N-(3-chloro-4-hydroxyphenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (65.0 mg, 0.123 mmol), potassium carbonate (85.0 mg, 0.614 mmol), and 2-(bromomethyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.109 g, 0.492 mmol) in 4 mL of anhydrous MeCN in a sealed tube was heated to 65° C. with stirring. After 2 hours the mixture was cooled to RT, filtered to remove solids, and the filtrate concentrated to dryness at reduced pressure. The residue was subjected to RP-HPLC purification (C18, MeCN/water/0.1% formic acid) followed by lyophilization from MeCN/water to afford the title compound (43 mg, 60%) as a white powder. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.40-8.47 (m, 1H) 8.20 (s, 1H) 8.05 (s, 2H) 7.97 (dd, J=8.7, 5.5 Hz, 2H) 7.65 (d, J=2.5 Hz, 1H) 7.53 (dd, J=8.9, 2.6 Hz, 1H) 7.40 (t, J=8.8 Hz, 2H) 7.14 (s, 1H) 7.00 (d, J=9.1 Hz, 1H) 3.73 (s, 2H) 3.32 (s, 3H) 2.82 (d, J=4.5 Hz, 3H) 2.20-2.35 (m, 1H) 0.90 (br. s., 3H) 0.45 (br. s., 1H). LCMS (m/z, ES+)=587 (M+H+).

reactant | 6-(N-(3-chloro-4-hydroxyphenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.123 mmol, 65.0 mg | ClC=1C=C(C=CC1O)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1 | C26H22ClFN2O5S
reactant | potassium carbonate | 0.614 mmol, 85.0 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(bromomethyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.492 mmol, 0.109 g | BrCB1OC(C(O1)(C)C)(C)C | C7H14BBrO2
solvent | MeCN | 4 mL | CC#N | C2H3N
product | ((2-Chloro-4-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)phenoxy)methyl)boronic acid | 43 mg, 60% | ClC1=C(OCB(O)O)C=CC(=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C=C1C1CC1 | C27H25BClFN2O7S
